Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint:  GIB
Reason for MICU transfer:  active GIB

 
Major Surgical or Invasive Procedure:
EGD with banding
TIPS

 
History of Present Illness:
Mr. ___ is a ___ y/o man with h/o EtOH cirrhosis, currently 
drinking, c/b recurrent ascites requiring weekly taps, 
encephalopathy, and esophageal varices who presented to OSH 
intoxicated with BRBPR and hematemesis yesterday. Initially 
stabilized with 2 units pRBCs. hct 24, plt 96, INR 1.8. Alcohol 
level 0.195. GI performed EGD under concious sedation and saw 
fresh blood in stomach and esophagus, banded 3 varices. 
Ocreotide and protonix drips started. RUQ showed only ascites 
and cirrhotic liver, PV not mentioned. After endoscope, started 
having active hematemasis and was then intubated. Repeat EGD saw 
again lots of blood but did not believe varices had new 
bleeding. Injected sodium tetradisusulfate into the varix. GI 
recommended transfer. 

As patient prepped for transfer, he started having active 
bleeding from multiple orfices including mouth, rectum, and 
nose. Started on 2 additional pressors to include vasopressin, 
levophen, and neo and ___ was placed. NGT 800 cc prior to 
___. Additional pRBC, platelets and FFP were given for 
total of 15 units pRBC, 10 units FFP, 6 units platelets.

On arrival to the MICU, initials vitals were AF 114 110/62 32 
100% on ventilator set at Vt 480 RR 24 FiO2 80% PEEP 12. He was 
actively bleeding at the mouth. Intial ABG showed pH 
7.04/53/137, lactate 11.9. hct 24, plt 71, INR 1.9, Fibrinogen 
72. Given 1 unit cryo. GI and ___ were consulted and came to 
bedside for evaluation.

 
Past Medical History:
EtOH cirrhosis
alcohol abuse
h/o hypokalemia and hypomag

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION EXAM
===============

GENERAL: intubated, sedated 
HEENT: Sclera icteric, MMM, oropharynx clear, blood at 
oropharynx, ___ tube in place
NECK: supple, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: tachycardic, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, distended, caput madusae visible, bowel sounds 
present
EXT: Warm, well perfused, 2+ pulses, trace edema  bilaterally 
NEURO:  intubated and sedated

DEATH NOTE
===========

Cardiac sounds absent. Lung sounds absent without chest rise. 
Neuro exam without withdrawal to painful stimuli and absent 
corneal reflexes.
 
Pertinent Results:
ADMISSION LABS
===============

___ 11:36PM BLOOD WBC-9.7 RBC-2.57* Hgb-7.8* Hct-24.0* 
MCV-94 MCH-30.2 MCHC-32.3 RDW-14.9 Plt Ct-71*
___ 11:36PM BLOOD Neuts-82.6* Lymphs-7.4* Monos-8.6 Eos-1.2 
Baso-0.2
___ 11:36PM BLOOD ___ PTT-71.7* ___
___ 11:36PM BLOOD Fibrino-72*
___ 11:36PM BLOOD Glucose-201* UreaN-12 Creat-1.7* Na-147* 
K-6.3* Cl-110* HCO3-14* AnGap-29*
___ 11:36PM BLOOD ALT-115* AST-729* LD(LDH)-1168* 
CK(CPK)-1391* AlkPhos-36* Amylase-117* TotBili-2.0* DirBili-0.5* 
IndBili-1.5
___ 11:36PM BLOOD CK-MB-42* MB Indx-3.0 cTropnT-0.02*
___ 11:36PM BLOOD Albumin-2.0* Calcium-8.2* Phos-9.3* 
Mg-1.8
___ 08:41AM BLOOD Hapto-<5*
___ 11:36PM BLOOD TSH-0.96
___ 11:55PM BLOOD ___ Temp-35.6 pO2-137* pCO2-53* 
pH-7.04* calTCO2-15* Base XS--17
___ 11:55PM BLOOD Glucose-179* Lactate-11.9* K-6.1*
___ 11:55PM BLOOD freeCa-0.71*

IMAGING STUDIES
===============

CXR ___:
Tube is projecting over the mid mediastinum and might 
potentially represent ___ tube.  Heart size and 
mediastinum are grossly within normal limits.  The ET tube tip 
is approximately 4.5 cm above the carina.  Left basal 
consolidation is most likely associated with pleural effusion.  
Right lung is essentially clear. 

TIPS ___:
IMPRESSION:  
  
Successful intrahepatic portosystemic shunt placement with 
decrease in 
porto-systemic pressure gradient from 24 to 6 mm Hg. 
  
Removal of 5 L of ascites. 
  
Placement of a left internal jugular triple-lumen catheter. 
  
Placement of a right internal jugular trauma line (triple 
lumen). 
  
RECOMMENDATION:  If esophageal bleeding continues, consider 
further treatment with ___ embolization of esophageal varices. 

___ LIVER OR GALLBLADDER US -
1. Patent TIPS shunt. 
2. Cirrhotic appearing liver with right pleural effusion and 
moderate ascites. 

___ CHEST (PORTABLE AP) -
 As compared to the previous radiograph, the patient has 
received a 
___ device.  The endotracheal tube as well as the left and 
right central venous access lines are constant.  Mildly 
increasing bilateral pleural effusions and signs of 
mild-to-moderate fluid overload.  Moderate cardiomegaly is 
constant.  No pneumothorax. 
 
Brief Hospital Course:
___ with h/o EtOH cirrhosis, currently drinking, c/b recurrent 
ascites requiring weekly taps, encephalopathy, and esophageal 
varices who presented to an outside hospital intoxicated with 
BRBPR and hematemesis requiring transfusion and EGD with 
significant esophageal variceal bleeding requiring ___ 
pressure balloon placement. On arrival, his bleeding temporarily 
stabilized and then subsequently resumed with impending DIC and 
multiorgan failure. Unfortunately he expired despite our 
resuscitation efforts.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Not applicable.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Not applicable.
 
Discharge Condition:
Not applicable.
 
Discharge Instructions:
Not applicable.
 
Followup Instructions:
___